US09034336B2
a. 5-Amino-2-butyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazole-4-carbonitrile (S4)
To a suspension of aminomalononitrile p-toluenesulfonate (2.0 g, 7.9 mmol, 1.0 equiv) in THF (30 mL) at 25° C. was added NEt3 (1.3 mL, 9.5 mmol, 1.2 equiv) in one portion. The mixture was stirred for 30 min to afford a homogeneous solution. To this solution was added triethyl orthovalerate S3 (2.2 mL, 9.5 mmol, 1.2 equiv) and the solution was heated at reflux for 3 h. TLC indicated the presence of starting material, thus additional triethyl orthovalerate (1.1 mL, 4.7 mmol, 0.6 equiv) was added. The solution was heated at reflux for another 2 h then cooled to 25° C. Next, NEt3 (1.3 mL, 9.5 mmol, 1.2 equiv) and 1-amino-2-methylpropan-2-ol S2 (844 mg, 9.5 mmol, 1.2 equiv) were added sequentially and the reaction was stirred at 25° C. for 15 h. The reaction was concentrated in vacuo and the resulting solid residue was redissolved in CH2Cl2 (100 mL) and washed with saturated aqueous Na2CO3 solution (25 mL). The aqueous layer was extracted with CH2Cl2 (3×20 mL). The combined organic fractions were washed with saturated aqueous NaCl, dried (MgSO4) and concentrated in vacuo. Purification by flash column chromatography on silica gel (CH2Cl2-9/1 MeOH/CH2Cl2, gradient) afforded the title compound (1.55 g, 83%) as an off white solid: 1H NMR (CD3OD, 600 Hz) δ 0.94 (t, J=6.0 Hz, 3H), 1.23 (s, 6H), 1.37 (hex, J=7.8 Hz, 2H), 1.66 (pent, J=6.0 Hz, 2H), 2.60 (t, J=6.0 Hz, 2H), 3.79 (s, 2H); 13C NMR (CD3OD, 150 Hz) δ 12.7, 21.9, 26.0, 26.4, 29.1, 52.9, 71.2, 89.5, 116.2, 145.2, 149.2; MS (ESI+): calcd C12H21N4O [M+H]+ 237.3. found 237.4.

reactant | aminomalononitrile p-toluenesulfonate | 7.9 mmol, 2.0 g, 1.0 equiv | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C#N)C#N
reactant | NEt3 | 9.5 mmol, 1.3 mL, 1.2 equiv | CCN(CC)CC | C6H15N
reactant | triethyl orthovalerate | C(CCCC)(OCC)(OCC)OCC | C11H24O3
reactant | triethyl orthovalerate | 4.7 mmol, 1.1 mL, 0.6 equiv | C(CCCC)(OCC)(OCC)OCC | C11H24O3
reactant | NEt3 | 9.5 mmol, 1.3 mL, 1.2 equiv | CCN(CC)CC | C6H15N
reactant | 1-amino-2-methylpropan-2-ol | NCC(C)(O)C | C4H11NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Amino-2-butyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazole-4-carbonitrile | 1.55 g, 83% | NC1=C(N=C(N1CC(C)(C)O)CCCC)C#N | C12H20N4O
